US05840911
b) 1.2-Diamino-4-(2,5-dimethoxyphenyl)-imidazole
A solution of 26.1 g of 2-amino-1-benzylideneamino-4-(2,5-dimethoxyphenyl)-imidazole and 16.2 ml of hydrazine hydrate in 80 ml of diethylene glycol is stirred at 170° C. for 6 hours. After cooling, 400 ml of water are added to the reaction mixture. The product that has separated out is filtered off with suction, washed with water and recrystallized from 150 ml of ethanol. In that manner there is obtained the title compound, m.p. 159°-160° C., 1H-NMR (DMSO): δ=7.47 (d, 1H); 7.07 (s, 1H); 6.87 (d, 1H); 6.63 (q, 1H); 5.52 (s, 2H); 5.34 (s, 2H); 3.79 (s, 3H); 3.69 (s, 3H).

reactant | 2-amino-1-benzylideneamino-4-(2,5-dimethoxyphenyl)-imidazole | 26.1 g | NC=1N(C=C(N1)C1=C(C=CC(=C1)OC)OC)N=CC1=CC=CC=C1 | C18H18N4O2
reactant | hydrazine hydrate | 16.2 ml | O.NN
reactant | water | 400 ml | O | H2O
solvent | diethylene glycol | 80 ml | C(COCCO)O | C4H10O3
product | 1.2-Diamino-4-(2,5-dimethoxyphenyl)-imidazole | NN1C(=NC(=C1)C1=C(C=CC(=C1)OC)OC)N | C11H14N4O2
